US07157455B2
(4-Amino-2-ethylsulfanyl-pyrimidin-5-yl)-(2,3,4-trifluoro-6-methoxy-phenyl)-methanone
The compound was prepared from 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide, Example 1, and 3,4,5-trifluoroanisole (Aldrich) in an analogous manner as described in Example 169.

reactant | 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1C(=NC(=NC1)SCC)N)C | C9H14N4O2S
reactant | 3,4,5-trifluoroanisole | FC=1C=C(C=C(C1F)F)OC | C7H5F3O
product | (4-Amino-2-ethylsulfanyl-pyrimidin-5-yl)-(2,3,4-trifluoro-6-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C(=C(C=C1OC)F)F)F)SCC | C14H12F3N3O2S
